US09340549B2
2-(5-Bromo-2-fluoropyridin-3-yl)pyrimidine
2-Bromopyrimidine (5.42 g, 34.1 mmol), sodium carbonate (22.75 mL, 45.5 mmol), 5-bromo-2-fluoropyridine-3-boronic acid (5 g, 22.75 mmol, commercially available from Frontier Scientific, Inc., Logan Utah), and dichloro(1,1-bis(diphenylphosphinoferrocene))palladium(II) (1.858 g, 2.275 mmol, commercially available from Sigma-Aldrich, Milwaukee, Wis.) were combined in dioxane (32.5 mL) and stirred at 100° C. overnight. LC-MS indicated good conversion to desired product. The material thus obtained was absorbed onto a plug of silica gel and purified by chromatography through a Redi-Sep pre-packed silica gel column (12 g), eluting with a gradient of 0% to 10% MeOH in DCM, to provide 2-(5-bromo-2-fluoropyridin-3-yl)pyrimidine (4.37 g, 17.20 mmol, 76% yield) as yellow solid. m/z (ESI) 253.8.

reactant | 2-Bromopyrimidine | 34.1 mmol, 5.42 g | BrC1=NC=CC=N1 | C4H3BrN2
reactant | sodium carbonate | 45.5 mmol, 22.75 mL | C([O-])([O-])=O.[Na+].[Na+]
reactant | 5-bromo-2-fluoropyridine-3-boronic acid | BrC=1C=C(C(=NC1)F)B(O)O | C5H4BBrFNO2
solvent | dioxane | 32.5 mL | O1CCOCC1 | C4H8O2
product | 2-(5-Bromo-2-fluoropyridin-3-yl)pyrimidine | BrC=1C=C(C(=NC1)F)C1=NC=CC=N1 | C9H5BrFN3
